US04906634
4-(2-(Diethylamino)ethoxy)benzenamine
To 8.0 g (23 mmol) of N,N-diethyl-2-(2,6-dimethyl-4-nitrophenoxy)ethanamine hydrobromide in 90 mL of ethanol add 26.0 g (115 mmol) of tin(II) chloride dihydrate. Heat the mixture to reflux with stirring for 1.5 h. Cool the mixture and pour it onto ice-water. Adjust the pH to 12 by the addition of dilute sodium hydroxide. Add ethyl acetate and filter the mixture through celite. Extract the filtrate twice with ethyl acetate. Wash the extract with saturated sodium chloride solution and dry over anhydrous sodium sulfate. Remove the drying agent by filtration and emove the solvent in vacuo to yield the title compound.

reactant | N,N-diethyl-2-(2,6-dimethyl-4-nitrophenoxy)ethanamine hydrobromide | 23 mmol, 8.0 g | Br.C(C)N(CCOC1=C(C=C(C=C1C)[N+](=O)[O-])C)CC
reactant | tin(II) chloride dihydrate | 115 mmol, 26.0 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 4-(2-(Diethylamino)ethoxy)benzenamine | C(C)N(CCOC1=CC=C(C=C1)N)CC | C12H20N2O
